US09079866B2
5-{3-Fluoro-2′-[(1-methylethyl)sulfonyl]biphenyl-4-yl}pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-bromo-2-(isopropylsulfonyl)benzene. MS (ESI): mass calcd. for C19H18FN3O2S, 371.11; m/z found, 372.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.42 (s, 1H), 8.15 (dd, J=8.0, 1.1, 1H), 8.09 (d, J=1.4, 1H), 7.93 (m, 1H), 7.78 (m, 1H), 7.68 (m, 1H), 7.51-7.44 (m, 1H), 7.37-7.28 (m, 2H), 2.90-2.77 (m, 1H), 1.09 (d, J=6.8, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-(isopropylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C(C)C | C9H11BrO2S
product | 5-{3-Fluoro-2′-[(1-methylethyl)sulfonyl]biphenyl-4-yl}pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)C(C)C | C19H18FN3O2S
